US04452814
N-[N'-(2-Chloroethyl)carbamoyl]sarcosine amide (100 mg, 0.516 mmol.) was dissolved in a 99% formic acid (0.7 ml) under ice-cooling, to which sodium nitrite (53.4 mg, 1.5 moles per mole of the starting compound) was slowly added and the mixture was held under stirring for further 30 minutes to complete the reaction. Then, Amberlite IR-120 (H+ form), a strongly acidic cation exchange resin made and sold by Rohm & Haas Company, (1 ml) and methanol (1 ml) were added to the resulting reaction solution and the mixture was stirred for 10 minutes. After the resin was removed by filtration, the reaction solution was concentrated in vacuo to leave an oily residue. The residue was purified by column chromatography on silica gel (Wako-gel C-300) with a developer system of toluene-ethanol (3:1 by volume), where the eluate was collected in fractions and the fractions containing the main product were collected together and concentrated in vacuo to afford N-[N'-(2-chloroethyl)-N'-nitrosocarbamoyl]sarcosine amide (62 mg) as a white crystalline residue.

reactant | N-[N'-(2-Chloroethyl)carbamoyl]sarcosine amide | 0.516 mmol, 100 mg | ClCCNC(=O)NC(CNC)=O | C6H12ClN3O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | methanol | 1 ml | CO | CH4O
solvent | formic acid | 0.7 ml | C(=O)O | CH2O2
product | N-[N'-(2-chloroethyl)-N'-nitrosocarbamoyl]sarcosine amide | 62 mg, Yield: 53.9% | ClCCN(C(=O)NC(CNC)=O)N=O | C6H11ClN4O3
